US06613903B2
4,4-Diethoxy-1-(1-(S)-phenyl-ethyl)-2-(S)-phthalimidomethyl-piperidine (4.0 g, 9.2 mmol) was dissolved in a mixture of trifluoroacetic acid/water (9:1) (100 ml) at 0° C. and stirred for 2 hours at this temperature. The mixture was basified with half saturated aqueous sodium carbonate, extracted with ethyl acetate and dried (MgSO4) for 2 hours and filtered. The solvent was removed in vacuo and the residue was left in a vacuum own at 40° C. for two days, which afforded 3.23 g (98%) of 4-oxo-1-((S)-1-phenyl-ethyl)-2-(S)-phthalimidomethyl-piperidine as a solid.

reactant | 4,4-Diethoxy-1-(1-(S)-phenyl-ethyl)-2-(S)-phthalimidomethyl-piperidine | 9.2 mmol, 4.0 g | C(C)OC1(C[C@H](N(CC1)[C@@H](C)C1=CC=CC=C1)CN1C(C=2C(C1=O)=CC=CC2)=O)OCC | C26H32N2O4
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | trifluoroacetic acid water | 100 ml | FC(C(=O)O)(F)F.O
product | 4-oxo-1-((S)-1-phenyl-ethyl)-2-(S)-phthalimidomethyl-piperidine | 3.23 g, 98% | O=C1C[C@H](N(CC1)[C@@H](C)C1=CC=CC=C1)CN1C(C=2C(C1=O)=CC=CC2)=O | C22H22N2O3
